Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Transfer for liver transplant evaluation
 
Major Surgical or Invasive Procedure:
Paracentesis

 
History of Present Illness:
___ with NASH cirrhosis (Class C, MELD 27, c/b ascites, SBP, no 
known varices), DM2, who presents as transfer from OSH with 
decompensated cirrhosis c/b SBP, bacteremia, and anemia, now 
transferred to ___ for liver transplant eval:  
Pt has been hospitalized at ___ from 
___. She was initially admitted after labs showed 
development of acute renal failure (Cr 1.8 from baseline of 0.9) 
in the setting of SBP.  
In terms of her renal failure, her diuretics were held. She was 
given albumin in the setting of SBP. Diuretics until her Cr had 
stabilized to her baseline, at which time diuretics were 
re-initiated. Over ___ to ___, sodium began trending down from 
130 to 125, and Cr increased from 0.8 to 1.5. Additionally 
potassium increased to 6.2 on ___, increased T wave amplitude 
in leads V2-V4, concerning for hyperkalemic changes, for which 
she was treated with 2 g calcium gluconate, 10 units regular 
insulin IV/50 mL D50, kayexalate. Repeat ECG showed sinus tach 
at 121 bpm with decreased T wave amplitude from prior EKG. K 
prior to transfer was 5.4. As a result, diuretics were 
discontinued and albumin 1g/kg was administered.  
Her course was notable for sensitive Klebsiella bacteremia which 
grew in ___ bottles on ___. She was treated with 10 days of 
antibiotics from ___.  
Her course was also notable for acute hemolytic anemia and 
question of DIC. Pt had decreasing Hct during her early hospital 
course (___) with elevated indirect bili (8), LDH (222), and 
low haptoglobin (<10). CT abdomen showed a small rectus sheath 
hematoma was thought to be too small to explain this drop. At 
this time, labs were also consistent with mild DIC, thought to 
be due to sepsis in the setting of bacteremia. Her fibrinogen 
increased appropriately, however, her ___ and aPTT remained 
elevated at 20.9 and 53.0. This was thought to possibly 
represent a new baseline due to progression of liver disease.  
On ___, H/H fell to 6.7/19.1 and a repeat CT was obtained to 
monitor for possible change in previously imaged rectus sheath 
hematoma, which showed a mild increase in size. However, H/H 
stabilized to 8.0 on ___ so a transfusion was not performed. 
She was given Vitamin K 5mg PO daily for possible contributing 
Vitamin K deficiency.  
Prior to transfer, she was started on SBP prophylaxis with 
ciprofloxacin. Last large volume para was on ___ with 2 L of 
serosanguinous fluid removed (with negative tap).  
Her bilirubin has been trending up from 6.7 on admit to 15.9 on 
day of transfer. INR trend has been from 1.7 on admit, up to 
peak 2.4 on ___, trended down to 1.9 on transfer. Cr trend was 
1.8 on admit, trended back to normal on (___), now 
uptrending again with Cr 1.5 on transfer.  
Pt was tranferred to ___ for liver transplant eval.  
Patient has never had an EGD performed. Etiology of her 
cirrhosis appears to be NASH, however, patient also had elevated 
AMA so there is a question of primary biliary cirrhosis. No 
EtOH. ___, HFE, Hep B&C negative.  
Upon arrival to the floor, pt reports pain in right lower 
quadrant where she has ecchymoses. Otherwise denies concerns.  

 
Past Medical History:
-Asthma  
-Diabetes  
-HTN  
-HLD  
-NASH cirrhosis, c/b ascites, SBP, no known varices.  
-Hx head & neck cancer  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 98.3 109/49 116 20 100% on RA  
General: jaundiced thin woman with protuberant belly, jaundiced, 
tired appearing, in no distress  
HEENT: Sclera icteric, MMM, oropharynx clear, EOMI  
Neck: Supple, JVP not elevated  
CV: Regular rate and rhythm, ___ loud systolic murmur  
Lungs: Clear to auscultation bilaterally anteriorly  
Abdomen: +BS, soft, distended w/ ascites, ecchymoses and 
abdominal wall edema over right abdomen w/ mild tenderness 
there, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, 2+ pitting edema extending 
all the way to the sacrum  
Neuro: CNII-XII intact, A&OX3 (hospital but not name, ___ 
not day), + asterixis  
Skin: jaundiced, many ecchymoses  

DISCHARGE PHYSICAL EXAM

 
Pertinent Results:
ADMISSION LABS
___ 10:21PM BLOOD WBC-3.7* RBC-1.90* Hgb-6.3* Hct-18.9* 
MCV-100* MCH-33.2* MCHC-33.3 RDW-16.9* RDWSD-59.8* Plt Ct-38*
___ 10:21PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-OCCASIONAL Ovalocy-1+ 
Schisto-1+ Burr-1+ Tear Dr-1+
___ 10:21PM BLOOD ___ PTT-54.4* ___
___ 10:21PM BLOOD Fibrino-83*
___ 10:21PM BLOOD Glucose-199* UreaN-27* Creat-1.3* Na-126* 
K-5.5* Cl-90* HCO3-24 AnGap-18
___ 10:21PM BLOOD ALT-12 AST-45* LD(___)-243 AlkPhos-59 
TotBili-17.1* DirBili-6.5* IndBili-10.6
___ 10:21PM BLOOD Albumin-3.7 Calcium-9.6 Phos-3.0 Mg-2.1
___ 10:21PM BLOOD Hapto-<5*
___ 10:31PM BLOOD ___
___ 01:18PM BLOOD calTIBC-73* Ferritn-1115* TRF-56*

PERTINENT LABS
HAV Ab positive
Anti-Smooth muscle antibody positive
___ negative
CEA 3.0
AFP 1.8
IgG 1186 IgA 807 IgM 76
HIV negative
Quantiferon-Gold indeterminate (mitogen negative)
HSV ___ IgG positive
HHV8 Ab ______
Strongyloides Ab negative
Schistosoma Ab negative
Trypanosoma cruzi Ab negative
Coccidioides Ab negative
Leishmania _______
Paracoccidioides Ab ______

___ AM cortisol 8.8
___ ___ stim test 5.9 to 14.1

DISCHARGE LABS

___ 03:31AM BLOOD WBC-11.4* RBC-2.66* Hgb-8.2* Hct-24.0* 
MCV-90 MCH-30.8 MCHC-34.2 RDW-21.0* RDWSD-66.1* Plt Ct-41*
___ 03:31AM BLOOD ___ PTT-66.1* ___
___ 05:17PM BLOOD Fibrino-62*
___ 03:31AM BLOOD Glucose-173* UreaN-82* Creat-3.9* Na-127* 
K-5.4* Cl-87* HCO3-17* AnGap-28*
___ 03:31AM BLOOD ALT-15 AST-72* LD(LDH)-321* AlkPhos-61 
TotBili-20.9*
___ 03:31AM BLOOD Albumin-3.1* Calcium-9.5 Phos-8.5* 
Mg-3.1*
___ 03:47AM BLOOD Type-CENTRAL VE pO2-61* pCO2-26* pH-7.43 
calTCO2-18* Base XS--4
___ 03:47AM BLOOD Lactate-5.7*

IMAGING
___ CXR PA/LAT
The no previous images.  The cardiac silhouette is at the upper 
limits of 
normal in size.  There is some indistinctness of pulmonary 
markings, raising the possibility of elevation of pulmonary 
venous pressure.  However, no evidence of pleural effusion or 
acute focal pneumonia. 

___ RUQ U/S DOPPLER
1. Patent hepatic vasculature. 
2. Coarse nodular hepatic architecture, with splenomegaly and 
ascites, 
consistent with cirrhosis. 
3. Cholelithiasis with sludge in the gallbladder. 

___ CT ABD W/W/O CONTRAST
1. Liver cirrhosis without focal lesion. 
2. Patent arterial and portal venous vasculature.  Accessory 
right hepatic artery arising from the superior mesenteric 
artery. 
3. Sequelae of portal hypertension, including extensive varices, 
splenomegaly and large volume ascites are stable. 
4. Please refer to separately dictated chest CT report of same 
date for 
evaluation of thoracic findings. 

___ CT CHEST 
1.  No concerning pulmonary mass or consolidation.  Bilateral 
pulmonary 
nodules measuring up to 3 mm.  In a patient with risk factors 
for lung cancer, follow-up with chest CT would be recommended in 
___ year.  If the patient is low risk for lung cancer, no further 
follow-up is required. 
2.  Moderate coronary artery and aortic valve calcifications. 

___ ECHOCARDIOGRAM
The left atrium is normal in size. Late saline contrast is seen 
in left heart at rest suggesting intrapulmonary shunting vs PFO. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) are 
mildly thickened. There is mild aortic valve stenosis (valve 
area 1.2-1.9cm2). No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild to moderate (___) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.

___ CARDIAC PERFUSION PHARMACOLOGIC STRESS TEST
No ischemic ECG changes noted. No anginal type symptoms 
reported. Appropriate hemodynamic responses to Persantine. 
Nuclear 
report sent separately. 

___ RENAL ULTRASOUND
1. No evidence of hydronephrosis. 
2. Small volume ascites. 

___ CT Abdomen with contrast
IMPRESSION:  
1.  Diffusely dilated ascending, transverse and proximal 
descending colon with relatively decompressed distal descending 
and sigmoid colon.  Contrast material from early bolus 
visualized. Concerning for colonic ileus related to ischemic or 
___ syndrome.  Correlate clinically.   
2. Liver cirrhosis without focal lesion. 
3. Large volume ascites.  Splenomegaly.  Other sequelae of 
portal 
hypertension, including extensive varices, are better visualized 
on prior 
contrast enhanced study. 

___ Chest CT
IMPRESSION: 
 
1.  New multifocal upper and mid lung predominant opacities are 
concerning for
infection in the appropriate clinical setting.  Considering the 
nodular
quality of some of the opacities, Pseudomonas and fungal 
organisms should be
considered in addition to other pathogens.
 
2.  Please see separately dictated CT of the abdomen and pelvis 
for complete
description of subdiaphragmatic findings.

___ CXR
IMPRESSION: 
In comparison with the study of ___, the nasogastric tube 
is been
removed.  The other monitoring and support devices are 
unchanged.
 
Again there are low lung volumes.  No evidence of pulmonary 
edema or acute
focal pneumonia.

 
Brief Hospital Course:
___ yo woman with NASH cirrhosis (Class C, c/b ascites, SBP, no 
known varices), DM2, who presents as transfer from OSH with 
decompensated cirrhosis c/b SBP, bacteremia, and anemia, now 
transferred to ___ for liver transplant evaluation.
 
#Decompensated ___ cirrhosis: Patient initially presented to 
___ with decompensated cirrhosis that was 
complicated by ascites and SBP wih Klebsiella bacteremia. On 
admission MELD was 27. Given earlier SBP and bacteremia she was 
treated with 4 days of ceftriaxone 2g to complete a ___nd then transitioned to prophylactic ciprofloxacin. She 
previously had EGD in ___ with grade 1 esophageal varices, per 
outside records. She was continued on outpatient lactulose tid 
and rifaximin for hepatic encephalopathy, though intermittently 
refused lactulose. Throughout admission MELD uptrended and her 
clinical status worsened as described below. She was transferred 
to the MICU for further management.

#Liver transplant evaluation: Patient underwent transplant 
workup in house given rising MELD. Transplant infectious disease 
service were consulted and recommended extensive ifnectious 
workup given patient is from ___. She also underwent CT a/p, 
transthoracic echocardiogram, cardiac pharmacologic stress test. 
She had pulmonary function tests which were suggestive of 
undetermined restrictive lung disease.

#Renal failure: Patient had ___ on admission thought likely 
secondary to SBP. Initially this was responsive to albumin, but 
subsequently worsened with concern for development of 
hepatorenal syndrome. She became anuric and volume overloaded 
with worsening lower extremity edema, ascites, and pulmonary 
edema. She was transferred to MICU.

#Respiratory failure: Patient had some shortness of breath on 
admission which was improved substantially with nebulizer 
treatments. After receiving FFP and platelets prior to a 
paracentesis, her shortness of breath worsened with crackles on 
exam. This progress as renal function worsened with icnreased 
work of breathing, and new O2 requirement. TTE was done which 
did not show any diastolic/systolic dysfunction.

#Anemia: Patient presented with anemia and concern for 
hemolysis/DIC versus bleeding into a known rectus sheath 
hematoma at outside hospital. Labs were concerning for DIC with 
low haptoglobin and fibrinogen; however these values were felt 
more likely to be explained by her underlying liver disease. 
Rectus sheath hematoma was followed on imaging and did not show 
expansion. Her hemoglobin subsequently stabilized.

#Hyperkalemia: Patient presented with hyperkalemia to 6.2 at 
outside hospital, as well as in house. ECG was followed and did 
not show changes. She was treated with kayexelate wtih good 
improvement. 

#Adrenal insufficiency: Because patient had hyperkalemia and 
hyponatremia, there was concern for adrenal insufficiency. ___ 
stim test revealed inadequate response. Endocrinology were 
consulted and recommended further workup given concern that 
patient's liver disease may lead to erroneous ___ stim test 
because of impaired synthesis of cortisol binding globulin. As 
patient's clinical status worsened, however, this was not 
performed.

#T2DM: Uncontrolled, A1c 9.0. She was continued on long acting 
and sliding scale insulin in house.

#Hyponatremia: Thought likely secondary to liver failure and 
acute renal failure with prerenal presentation. Sodium level was 
followed.

MICU COURSE
=============
___ yo woman with NASH cirrhosis (Class C, c/b ascites, SBP, no 
known varices), DM2, who presents as transfer from OSH with 
decompensated cirrhosis c/b SBP, bacteremia, and anemia, 
transferred to ___ for liver transplant evaluation and 
subsequently to the MICU for respiratory distress due to altered 
mental status and potential dialysis 

#RESPIRATORY COMRPOMISE: Ms. ___ presented with acute 
respiratory compromise in the setting of worsening obtundation. 
Her tachypnea was likely multifactorial secondary to 
hypervolemia in setting of anuria and worsening abdominal 
distension with ascites that may be compressing the diaphragm. 
Her recent pulmonary edema, potentially secondary to TRALI, is 
likely also contributing. Given this presentation in combination 
with her obtundation patient was intubated for airway 
protection. The patient continued to be intubated throughout her 
MICU course. 

#CIRRHOSIS C/B ASCITES, SBP and ABDOMINAL DISTENSION: Ms. 
___ presented with known cirrhosis complicated by SBP early 
in her course s/p 14-days of CTX as well as ciprofloxacin PPX 
that was initiated on ___ after arrival to ___. Recently 
she had worsening abdominal distension that may be secondary to 
a gastric outlet obstruction that is either functional or less 
likely, anatomic. Patient was started on meropenem given 
potential SBP. The patient continued to worsen during her MICU 
stay with increasing lactate levels, hypotension, and continued 
altered mental status. After discussions with the physicians 
given the patient's poor prognosis, the family of the patient 
including her health care proxy chose ___ measures only. All 
non-essential medications were discontinued including 
antibiotics. The patient continued to deteriorate with worsening 
lactate, anuria, and hypotension. The patient passed away due to 
the complications of her liver disease. 

#ACUTE ON CHRONIC RENAL FAILURE: Patient without very clear 
evidence of worsening creatinine however became anuric with 
increasing creatinine. Patient was in renal failure and in need 
of dialysis. The plan was to initiate hemodialysis but given the 
poor prognosis the patient's family switched goals of care to 
comfort measures only. 

#Ileus - patient continued to be without bowel movements over 
the course of her MICU stay. The OG tube was suctioned daily 
with eventually feculent material being extracted. A CT abdomen 
showed colonic ileus related to
ischemic changes vs. Oglivies which could have been contributing 
to her clinical status and worsening lactate. Given the poor 
prognosis no intervention was pursued.  

#COAGULOPATHY W/ CONCERN FOR ACTIVE BLEEDING: The patient had 
bright red blood at her posterior pharynx noticed during 
intubation. ENT was consulted and packed the nasopharyngeal 
pharynx with gauze with resolution of the bleed. The patient's 
INR continued to increase during her ICU stay. 

#ALTERED MENTAL STATUS: Ms. ___ presented with obtundation 
that is likely multifactorial secondary to hepatic 
encephalopathy and progressive renal failure. Prior to passing 
the patient experienced ventricular tachycardia with subsequent 
bradycardia and decreased blood pressures. Morphine was 
administered to comfort the patient during her final hours. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Furosemide 40 mg PO DAILY 
2. Spironolactone 200 mg PO DAILY 
3. Rifaximin 550 mg PO BID 
4. Glargine 55 Units Bedtime

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased due to complications of end stage liver disease
 
Discharge Condition:
Deceased 
 
Discharge Instructions:
N/A
 
Followup Instructions:
___